US05747516
Step C Preparation of 2,4-Dihydro-2-methyl-5-(methylthio)-4-(2-phenoxyphenyl)-3H-1,2,4-triazol-3-one
A solution of 900 mg of crude 2-methyl-4-(2-phenoxyphenyl)-5-thioxo-1,2,4-triazolidin-3-one in 50 mL of tetrahydrofuran was treated with 150 mg of sodium hydride (60% oil dispersion). After 5 minutes, 0.5 mL of iodomethane was added, and the mixture was stirred at ambient temperature overnight. The solid was removed by filtration and the filtrate concentrated to an oil. The oil was partitioned between ether and 1N hydrochloric acid solution. The organic phases were dried (MgSO4), filtered and concentrated under reduced pressure. The residue was triturated in hexane/n-butyl chloride to afford 530 mg (56%) of the title compound of Step C, m.p. 129°-130° C.

reactant | 2-methyl-4-(2-phenoxyphenyl)-5-thioxo-1,2,4-triazolidin-3-one | 900 mg | CN1NC(N(C1=O)C1=C(C=CC=C1)OC1=CC=CC=C1)=S | C15H13N3O2S
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | iodomethane | 0.5 mL | IC | CH3I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2,4-Dihydro-2-methyl-5-(methylthio)-4-(2-phenoxyphenyl)-3H-1,2,4-triazol-3-one | 530 mg, 56% | CN1N=C(N(C1=O)C1=C(C=CC=C1)OC1=CC=CC=C1)SC | C16H15N3O2S
